US04271167
2-Bromo-2-methylpropanol (39.7 g) is added, at about 5° C., to a suspension of triethylammonium pyrid-2-yl-dithiocarbamate (71.2 g) in anhydrous acetonitrile (330 cc). The reaction is allowed to proceed for 1 hour at 20° C. The insoluble triethylamine hydrobromide is removed by filtration. The acetonitrile is evaporated off under reduced pressure (20 mm Hg) at 40° C. The residual oil is treated with methylene chloride (300 cc). The organic solution is washed twice with distilled water (100 cc in total), dried over sodium sulphate and evaporated. The resulting product (60 g) is dissolved in methylene chloride (300 cc), and the solution is filtered through silica (0.2-0.5 mm., 850 g) contained in a column of diameter 5 cm. Elution is carried out with methylene chloride (9 liters). After evaporating off the solvent under reduced pressure (20 mm Hg) at 40° C., the resulting product (50 g) is dissolved in boiling methylcyclohexane (150 cc). After cooling for 16 hours at 2° C., the crystals which have appeared are filtered off, washed with methylcyclohexane (50 cc) and dried under reduced pressure (0.1 mm Hg) at 40° C. 5,5-Dimethyl-4-hydroxy-3-(pyrid-2-yl)-thiazolidine-2-thione (44.1 g), which melts at 80° C., is thus obtained.

reactant | 2-Bromo-2-methylpropanol | 39.7 g | BrC(CO)(C)C | C4H9BrO
reactant | triethylammonium pyrid-2-yl-dithiocarbamate | 71.2 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
solvent | acetonitrile | 330 cc | C(C)#N | C2H3N
product | 5,5-Dimethyl-4-hydroxy-3-(pyrid-2-yl)-thiazolidine-2-thione | 44.1 g | CC1(C(N(C(S1)=S)C1=NC=CC=C1)O)C | C10H12N2OS2
